US05212185
N-Benzyl-N-methyl-2-chloroethylamine Hydrochloride
The procedure of Hall, et al.[Organic Syntheses Coll. Vol. 4, 1963, 333-335] was used. To thionyl chloride (22.92 mL, 03.14 mol) at 0° C. was added dropwise N-benzyl-N-methyl ethanolamine (50 g, 0.303 mol). The creamy, off-white material was stirred for 1 hour at 0° C. and then 1 hour at room temperature. Anhydrous ethanol (129 mL) was added to the material. The solution was refluxed for 20 minutes and then was concentrated to an off-white solid. The solid was triturated with Et2O to give the title compound as a white solid (62.51 g, 94% yield, mp 136-138° C.).

reactant | thionyl chloride | 22.92 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-benzyl-N-methyl ethanolamine | 0.303 mol, 50 g | C(C1=CC=CC=C1)N(CCO)C | C10H15NO
solvent | ethanol | 129 mL | C(C)O | C2H6O
product | N-Benzyl-N-methyl-2-chloroethylamine Hydrochloride | 62.51 g, 94% yield | Cl.C(C1=CC=CC=C1)N(C)CCCl | InChI=1S/C10H14ClN.ClH/c1-12(8-7-11)9-10-5-3-2-4-6-10;/h2-6H,7-9H2,1H3;1H
